US06844345B2
e) (2-Trifluoromethoxy-6-trimethylsilanylethynyl-phenyl)-carbamic acid ethyl ester
Bis(triphenylphosphine)palladium(II) dichloride (1.1 g, 1.6 mmol) and copper(I) iodide (0.3 g, 1.6 mmol) were added to triethylamine (600 mL) and heated with stirring for 20 min. The mixture was cooled to room temperature and (2-iodo-6-trifluoromethoxy-phenyl)-carbamic acid ethyl ester (60.2 g, 160 mmol) was added. After stirring for 30 min at room temperature trimethylsilylacetylene (21.1 g, 152 mmol) was added and the mixture was stirred for another 2 h at room temperature. Triethylamine was removed in vacuo and the residue was partitioned between water and diethyl ether. The organic phases were washed with 1N HCl, brine, pooled and dried with MgSO4. Evaporation of the solvent yielded 57 g of brownish solid, which was purified by chromatography on silica gel with hexane/ethyl acetate (9:1). This yielded the title compound, (52.8 g, 95%) as a beige amorphous solid. (EI-MS: m/e 345.0 (M+)).

reactant | (2-iodo-6-trifluoromethoxy-phenyl)-carbamic acid ethyl ester | 160 mmol, 60.2 g | C(C)OC(NC1=C(C=CC=C1OC(F)(F)F)I)=O | C10H9F3INO3
reactant | trimethylsilylacetylene | 152 mmol, 21.1 g | C[Si](C)(C)C#C | C5H10Si
catalyst | Bis(triphenylphosphine)palladium(II) dichloride | 1.6 mmol, 1.1 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 1.6 mmol, 0.3 g | [Cu]I
solvent | triethylamine | 600 mL | C(C)N(CC)CC | C6H15N
product | (2-Trifluoromethoxy-6-trimethylsilanylethynyl-phenyl)-carbamic acid ethyl ester | 57 g | C(C)OC(NC1=C(C=CC=C1C#C[Si](C)(C)C)OC(F)(F)F)=O | C15H18F3NO3Si
